US06143764
N-(4-Butylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea [47]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (50 mg) was dissolved in toluene (3 ml) with heat, 4-butylphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 26 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 36 mg of the title compound (yield: 45%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-butylphenyl isocyanate | 0.2 ml | C(CCC)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Butylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea | 36 mg, yield: 45% | C(CCC)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H29N3O4
